US05798354
(a) Synthesis of methyl 4-[3-(1-adamantyl)-4-(6-hydroxyhexyloxy)phenylethynyl]benzoate
2 g (5.1 mmol) of methyl 4-[3-(1-adamantyl)-4-hydroxyphenylethynyl]benzoate, 1.1 ml (8.3 mmol) of 6-bromo-1-hexanol, 1.2 g (8.8 mmol) of potassium carbonate, 20 mg of potassium iodide and 100 ml of 2-butanone were introduced into a round-bottomed flask. The reaction mixture was heated at reflux for twelve hours and was evaporated to dryness, the residue was taken up in water and ethyl acetate and the organic phase was separated by settling, dried over magnesium sulfate and evaporated.

reactant | methyl 4-[3-(1-adamantyl)-4-hydroxyphenylethynyl]benzoate | 5.1 mmol, 2 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2O)C#CC2=CC=C(C(=O)OC)C=C2 | C26H26O3
reactant | 6-bromo-1-hexanol | 8.3 mmol, 1.1 ml | BrCCCCCCO | C6H13BrO
reactant | potassium carbonate | 8.8 mmol, 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 20 mg | [I-].[K+]
solvent | 2-butanone | 100 ml | CC(CC)=O | C4H8O
product | methyl 4-[3-(1-adamantyl)-4-(6-hydroxyhexyloxy)phenylethynyl]benzoate | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OCCCCCCO)C#CC2=CC=C(C(=O)OC)C=C2 | C32H38O4
